US03937837
7-Hydroxy-4-oxo-4H-1-benzopyran-2,3-dicarboxylic acid.
A mixture of 2.0 g (7.2 mmol) of ethyl 3-carbamoyl-7-hydroxy-4-oxo-4H-1-benzopyran-2-carboxylate in 10 ml of 80% sulfuric acid was heated over a steam bath for 1 hr. and then poured into 50 ml of water. This was filtered and the filtrate evaporated in vacuo. The gummy residue was triturated with a minimum amount of water, the solid filtered and dried, mp 255°-257°C.

reactant | ethyl 3-carbamoyl-7-hydroxy-4-oxo-4H-1-benzopyran-2-carboxylate | 7.2 mmol, 2.0 g | C(N)(=O)C1=C(OC2=C(C1=O)C=CC(=C2)O)C(=O)OCC | C13H11NO6
reactant | water | 50 ml | O | H2O
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 7-Hydroxy-4-oxo-4H-1-benzopyran-2,3-dicarboxylic acid | OC1=CC2=C(C(C(=C(O2)C(=O)O)C(=O)O)=O)C=C1 | C11H6O7
